US06376491B1
To a solution of 4-(3-benzylamino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (the compound in Example 98: 180 mg) in THF (10 ml) was added 20% Pd(OH)2 on charcoal catalyst (40 mg) under N2. The nitrogen atmosphere was replaced by hydrogen (1 atom) and the resulting mixture was stirred overnight at room temperature. The reaction mixture was filtered through a pad of celite and the pad of celite was rinsed with methanol and dichloromethane. The filtrate combined was concentrated in vacuo. The residue was purified by silica gel column chromatography (dichloromethane-MeOH) to give 4-(3-amino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (125 mg) as a colorless oil. FAB-MS: m/z 278 (MH+).

reactant | 4-(3-benzylamino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCNCC2=CC=CC=C2 | C22H25NO4
reactant | hydrogen | [H][H] | H2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd(OH)2 on charcoal | 40 mg | [OH-].[OH-].[Pd+2]
product | 4-(3-amino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 125 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCN | C15H19NO4
